US04209621
5-(p-Chlorophenyl)-2-pyrimidinol
A mixture of 20.0 g. of (p-chlorophenyl)formimidoylacetaldehyde and 5.0 g. of urea is heated under reflux in 50 ml. of ethanol and 10 ml. of concentrated hydrochloric acid for 5 hours. The reaction mixture is worked up as described in Example 4 and the product is crystallized from ethanol to give 13.0 g. of a solid. The solid in 260 ml. of ethanol and 13 ml. of concentrated hydrochloric acid is heated under reflux for 16 hours. The reaction mixture is cooled and the material which is separated is collected and dissolved in a minimum of dimethyl sulfoxide. Dilute ammonium hydroxide (20%) is added and the product is collected, washed with water, ethanol, and ether to yield 8.78 g. of the product of the Example, m.p. 324°-327° C.

reactant | (p-chlorophenyl)formimidoylacetaldehyde | ClC1=CC=C(C=C1)C(=N)CC=O | C9H8ClNO
reactant | urea | NC(=O)N | CH4N2O
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 5-(p-Chlorophenyl)-2-pyrimidinol | ClC1=CC=C(C=C1)C=1C=NC(=NC1)O | C10H7ClN2O
